data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_85829_0,[C:1]1([C:5]([C:4]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([H:8])[C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[O:7]1>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:5]([C:4]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])[H:9])(=[O:7])[H:8],58.04249499998605
MR_262266_2,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:7][H:10])=[O:8])([C:4](=[C:5]([H:15])[H:16])[H:11])[O:6][H:9]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:4](/[C:5]([C:3]([O:7][H:10])=[O:8])([H:15])[H:16])[H:11])[O:6][H:9],66.65869749999047
MR_258962_1,[C:1]([N:2]([H:8])[H:9])(=[C:3](\[C:4](=[C:5]([H:13])[H:14])[H:12])[H:11])/[N:6]=[N:7]/[H:10]>>[C:1](\[N:2]([H:8])[H:9])(=[C:3](\[N:6]=[N:7]\[H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12],65.72497749999371
MR_346644_1,[C:1]([N:3]([N:4]([C:2]([H:14])([H:15])[H:16])[H:8])[C:5]([N:6]([H:9])[H:10])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[N:4]([C:5]([N:6]([H:9])[H:10])=[O:7])[H:8])([H:11])([H:12])[H:13],11.105494999997347
MR_698194_0,[C:1]([C:5]([C:2]([H:15])([H:17])[H:18])=[C:4]([N:3]([N:6]([H:9])[H:10])[H:8])[N:7]([H:11])[H:12])([H:13])([H:14])[H:16]>>[C:1]([C:5]1([C:2]([H:15])([H:17])[H:18])[N:3]([H:8])[C:4]1([N:6]([H:9])[H:10])[N:7]([H:11])[H:12])([H:13])([H:14])[H:16],54.26118000000926
MR_20201_2,[C:1]1([C:4]([H:15])([H:16])[H:17])([H:9])[C:6]([C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[H:11])([O:7][C:3]([H:12])([H:13])[H:14])[O:8]1>>[C:1]([C:4]([H:15])([H:16])[H:17])([C:6]([C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[H:11])=[O:8])([O:7][C:3]([H:12])([H:13])[H:14])[H:9],47.37624999998545
MR_405896_0,[C:1]1([O:6][C:3]([H:12])([H:13])[H:14])([H:8])[C:2]([N:5]([H:10])[H:11])([H:9])[N:4]1[H:7]>>[C:1](\[C:2]([N:5]([H:10])[H:11])([O:6][C:3]([H:12])([H:13])[H:14])[H:9])(=[N:4]\[H:7])[H:8],32.18196500000289
MR_462180_0,[C:1]1([O:6][H:9])([H:12])[C:3]([O:7][H:10])=[C:4]([O:8][H:11])[C:2]([H:13])([H:14])[O:5]1>>[C:1](=[C:3](/[C:4]1([O:8][H:11])[C:2]([H:13])([H:14])[O:5]1)[O:7][H:10])(\[O:6][H:9])[H:12],44.32973750000826
MR_265394_0,[C:1]([C:2]([O:7][O:8][H:9])([H:11])[H:12])([C:3]([H:13])([H:16])[H:17])([C:4]([H:14])([H:15])[H:18])[N:6]([C:5]([H:19])([H:20])[H:21])[H:10]>>[C:1]([C:2]([N:6]([C:5]([H:19])([H:20])[H:21])[H:10])([H:11])[H:12])([C:3]([H:13])([H:16])[H:17])([C:4]([H:14])([H:15])[H:18])[O:7][O:8][H:9],69.7309375000097
MR_353309_0,[C:1]([N:3](/[C:4](=[C:5](/[C:2]([H:15])([H:16])[H:17])[O:7][H:8])[N:6]([H:10])[H:11])[H:9])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:4](/[C:5]([C:2]([H:15])([H:16])[H:17])([O:7][H:8])[H:9])[N:6]([H:10])[H:11])([H:12])([H:13])[H:14],49.11505249998271
MR_683759_1,[N:1]1([H:9])[N:2]([H:10])[C:3]([N:5]([H:11])[H:12])=[C:4]([N:6]([H:13])[H:14])[C:7]([H:15])=[N:8]1>>[N:1]1([H:9])[N:2]([H:10])[C:3]1([C@@:4]1([N:6]([H:13])[H:14])[C:7]([H:15])[N:8]1)[N:5]([H:11])[H:12],58.42024999999538
MR_657886_0,[C:1]1([N:4]([H:11])[H:13])([H:9])[N:3]([H:8])[C:2]([N:5]([H:12])[H:14])([H:10])[O:6][O:7]1>>[C:1]([N:3](/[C:2](=[N:5]\[H:12])[H:10])[H:8])([N:4]([H:11])[H:13])([O:7][O:6][H:14])[H:9],48.51892750002534
MR_205541_2,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]1([N:5]([H:8])[H:9])/[C:4](=[N:7]/[H:11])[N:6]1[H:10])([H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:4](/[C:3]([N:5]([H:8])[H:9])=[N:6]/[H:10])=[N:7]/[H:11])([H:12])[H:13],60.42511249996295
MR_69477_2,[C:1](/[N:7]=[C:4](/[N:3](/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:8]\[H:12])[H:9])[N:6]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:7](/[C:4](=[N:3]/[H:9])[N:6]([H:10])[H:11])/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:8]\[H:12])([H:13])([H:14])[H:15],45.25530000002561
MR_59451_0,[C:1](/[N:3]=[C:4](\[C:2]([H:13])([H:14])[H:15])[O:7]/[C:5](=[N:6]\[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:7])/[C:5](=[N:6]\[H:8])[H:9])([H:10])([H:11])[H:12],27.88860999999912
MR_694113_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:7]([N:5]([C:6]([C:4]([H:19])([H:20])[H:21])=[O:10])[H:12])=[C:8]([H:22])[H:23])[O:9][H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:7](/[N:5]=[C:6](/[C:4]([H:19])([H:20])[H:21])[O:10][H:11])=[C:8]([H:22])[H:23])[O:9][H:12],46.80710749999562
MR_574439_0,[C:1]([H:6])([H:7])([H:8])[C:11]([N:12]([H:18])[H:19])([C:13]([C:3]([C:2]([H:5])([H:9])[H:10])=[O:4])([O:15][H:17])[H:20])[O:14][H:16]>>[C:1]([C:3]([C:2]([H:5])([H:9])[H:10])([O:4][H:18])[C:13](/[C:11](=[N:12]/[H:19])[O:14][H:16])([O:15][H:17])[H:20])([H:6])([H:7])[H:8],67.8967549999679
MR_560182_1,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])/[C:5]([N:7]([H:10])[H:11])=[N:8]/[H:12])([C:6]([C:3]([H:18])([H:19])[H:20])=[O:9])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:4]([C:2]([H:15])([H:16])[H:17])[C@@:6]1([C:3]([H:18])([H:19])[H:20])[O:9]/[C:5]([N:7]([H:10])[H:11])=[N:8]/[H:12],72.52080249999281
MR_420917_0,[C:1]([C:2](/[N:4]=[N:5]\[H:8])=[O:6])([C:3](=[O:7])[H:11])([H:9])[H:10]>>[C:1]([C:2](=[O:6])[H:11])([C:3](/[N:4]=[N:5]\[H:8])=[O:7])([H:9])[H:10],57.695487500006095
